US08633173B2
169 d) N-{3-[(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-phenyl}-N-methyl-methanesulfonamide was prepared from 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine (184.0 mg, 0.7915 mmol) and N-(3-aminomethyl-phenyl)-N-methyl-methanesulfonamide (188.0 mg, 0.8773 mmol) in a manner analogous to Example 2d. Product isolated as a yellow resin (0.082 g, 28%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.89 (d, J=6.7 Hz, 1H), 7.42-7.36 (m, 2H), 7.33-7.29 (m, 2H), 6.85 (t, J=7.4 Hz, 1H), 6.39 (d, J=7.8 Hz, 1H), 5.43-5.38 (m, 1H), 4.49 (d, J=5.7 Hz, 2H), 3.32 (s, 3H), 2.83 (s, 3H). MS=366, 368 (MH)+.

reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | 0.7915 mmol, 184.0 mg | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | N-(3-aminomethyl-phenyl)-N-methyl-methanesulfonamide | 0.8773 mmol, 188.0 mg | NCC=1C=C(C=CC1)N(S(=O)(=O)C)C | C9H14N2O2S
product | N-{3-[(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-phenyl}-N-methyl-methanesulfonamide | ClC1=NN2C(C(=CC=C2)NCC=2C=C(C=CC2)N(S(=O)(=O)C)C)=N1 | C15H16ClN5O2S
